US04423241
Preparation of 2-Chloro-6-fluorobenzylideneaminooxyacetic Acid
A warm solution of 2.0 gm. (0.013 mole) of 2-chloro-6-fluorobenzaldehyde in 40 ml. of ethanol was stirred into a warm solution of 1.4 gm. (0.013 equiv.) of carboxymethoxylamine hemihydrochloride and 0.6 gm. (0.007 mole) of anhyd. sodium acetate in 40 ml. of water. The mixture was heated a half-hour on the steam bath, and was then evaporated to dryness under reduced pressure to yield an oil, which was induced to crystallize by vigorous stirring. The solid material was triturated under water, removed by filtration, washed with water and dried in air to obtain 2.7 gm. (92.5%) of crude product melting from 95°-115° C. Recrystallization from n-heptaine/isopropyl alcohol gave 2.0 gm. of product melting at 116°-118° C.

reactant | 2-chloro-6-fluorobenzaldehyde | 0.013 mole | ClC1=C(C=O)C(=CC=C1)F | C7H4ClFO
reactant | ethanol | C(C)O | C2H6O
reactant | carboxymethoxylamine hemihydrochloride | 0.013 equiv. | Cl.C(=O)(O)CON.C(=O)(O)CON
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 2-Chloro-6-fluorobenzylideneaminooxyacetic Acid | ClC(C(=O)O)ON=CC1=CC=CC=C1F | C9H7ClFNO3
